US03980681
3-Phenylacetoxy-oestra-1,3,5(10)-trien-17-one.
Oestrone (2 g.) in pyridine (10 ml.) was treated for three days at room temperature with phenylacetyl chloride (3 ml.). The mixture was diluted with water (50 ml.) and the product extracted with ether (50 ml.) containing a little chloroform. The extract was washed with water (50 ml.) then 2N-sulphuric acid (25 ml.) then water again (50 ml.) and the solvent was evaporated in vacuo. Filtration of the residue in methylene chloride through a short Florisil column and crystallisation from light petroleum (b.p. 40°/60°)-ether gave the title compound in two crops (total 1.54 g., 54%), m.p. 114°-116°.

reactant | Oestrone | 2 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | phenylacetyl chloride | 3 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 3-Phenylacetoxy-oestra-1,3,5(10)-trien-17-one | C1(=CC=CC=C1)CC(=O)OC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C26H28O3
